US07994185B2
Step C: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-4-fluorophenyl}-2,6-difluorobenzenesulfonamide
To a solution of methyl 5-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorobenzoate (21 g, 60.8 mmol) in dry THF (250 mL) at −10° C., LIHMDS (1M in THF, 213 mmol, 213 mL) was added dropwise and the solution was allowed to stir for 1 h at 0° C. A solution of pyrimidine chloride (9.3 g, 73 mmol) in THF (50 mL) was then added dropwise to the solution of ester and base at 0° C. over 20 min. The solution was allowed to stir 1 h at rt. TLC showed the reaction was complete. The reaction was quenched by addition of the saturated aqueous NH4Cl (200 mL) at 0° C. The reaction mixture was extracted with EtOAc (100 mL×3). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was purified by flush column on silica gel, rinsing with DCM. This solution was concentrated to obtain a solid. The orange solid was triturated with a small amount of EtOAc and filtered, rinsing with diethyl ether to give N-(3-(2-(2-chloropyrimidin-4-yl)acetyl)-4-fluorophenyl)-2,6-difluorobenzenesulfonamide (13 g, 50.5%). N-(3-(2-(2-chloropyrimidin-4-yl)acetyl)-4-fluorophenyl)-2,6-difluorobenzenesulfonamide (13 g) was diluted in DMA (150 mL). NBS (5.5 g, 30.7 mmol) was added and the reaction mixture was stirred at rt for 1 h. Then 2-methylpropanethioamide (4.8 g, 33.8 mmol) was added at 0° C. The mixture was stirred at rt for 2 h. The mixture was poured into water and extracted with EtOAc (500 mL×3). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (DCM:petroleum ether 2:1) to afford the title compound of Step C (7.5 g, 22% yield over 2 steps). 1H NMR (400 MHz, CDCl3) δ ppm 8.11 (d, J=5.5 Hz, 1H), 7.48-7.56 (m, 1H), 7.40-7.48 (br, 1H), 7.26-7.38 (m, 2H), 7.07-7.14 (m, 1H), 6.92-7.04 (m, 2H), 6.51 (d, J=5.5 Hz, 1H), 3.80-3.88 (m, 4H), 3.58-3.65 (m, 4H), m/z (ES+): 468 [M+H]+.

reactant | N-(3-(2-(2-chloropyrimidin-4-yl)acetyl)-4-fluorophenyl)-2,6-difluorobenzenesulfonamide | 13 g | ClC1=NC=CC(=N1)CC(=O)C=1C=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F | C18H11ClF3N3O3S
reactant | NBS | 30.7 mmol, 5.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-methylpropanethioamide | 33.8 mmol, 4.8 g | CC(C(N)=S)C | C4H9NS
reactant | water | O | H2O
solvent | DMA | 150 mL | CC(=O)N(C)C | C4H9NO
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-4-fluorophenyl}-2,6-difluorobenzenesulfonamide | 7.5 g, 22% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H17ClF3N5O3S2
